US07932271B2
3,6-Dichloro-2-[(6-chloropyridin-3-ylthio)(pyridin-4-yl)methyl]pyridine
To a dichloromethane (3 ml) solution of the (3,6-dichloropyridin-2-yl)(pyridin-4-yl)methanol (153 mg, 0.60 mmol) obtained in Referential Example 25 were added triethylamine (0.167 ml, 1.20 mmol) and methanesulfonyl chloride (0.070 ml, 0.90 mmol) sequentially at 0° C. The resulting mixture was stirred at room temperature for 2 hours. After the reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate, the organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. To an N,N-dimethylformamide (3 ml) solution of the residue thus obtained were added an N,N-dimethylformamide (2 ml) solution of 6-chloro-3-pyridinethiol and then, potassium carbonate (100 mg, 0.72 mmol). The resulting mixture was stirred at room temperature for 18 hours. To the reaction mixture was added ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. The fraction obtained from the hexane:ethyl acetate=7:3 eluate was concentrated under reduced pressure to give the title compound (83 mg, 0.22 mmol, 36%) as a yellow oil.

reactant | (3,6-dichloropyridin-2-yl)(pyridin-4-yl)methanol | 0.60 mmol, 153 mg | ClC=1C(=NC(=CC1)Cl)C(O)C1=CC=NC=C1 | C11H8Cl2N2O
reactant | triethylamine | 1.20 mmol, 0.167 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.90 mmol, 0.070 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 6-chloro-3-pyridinethiol | ClC1=CC=C(C=N1)S | C5H4ClNS
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3,6-Dichloro-2-[(6-chloropyridin-3-ylthio)(pyridin-4-yl)methyl]pyridine | 0.22 mmol, 83 mg, 36% | ClC=1C(=NC(=CC1)Cl)C(C1=CC=NC=C1)SC=1C=NC(=CC1)Cl | C16H10Cl3N3S
